US09024041B2
Intermediate C3: 4-((2,3-Dimethyl-4-nitrophenoxy)methyl)pyridin-2-amine
To a stirred solution of (2-aminopyridin-4-yl)methanol (1.33 g, 10.8 mmol) in DMF (10 mL) at 0° C. was added sodium hydride (60% dispersion in mineral oil, 537 mg, 13.4 mmol) and the reaction mixture maintained at 0° C. for 5 min and then warmed to RT for 1 hr. The mixture was re-cooled to 0° C., treated with a solution of 1-fluoro-2,3-dimethyl-4-nitrobenzene (2.00 g, 12.0 mmol) in DMF (5.0 mL) and after 2 min was warmed to RT. After 20 hr the reaction mixture was diluted with saturated aq. NH4Cl (50 mL) and extracted with EtOAc (2×100 mL) and then ether (100 mL). The combined organic extracts were dried and evaporated in vacuo to afford a red oil. The residue was diluted with acetonitrile (50 mL), upon which a brown precipitate formed. The precipitate was removed by filtration and the filtrate was evaporated in vacuo. This residue was purified by flash column chromatography (SiO2, 80 g, MeOH in DCM, 0-5%, gradient elution) to afford the title compound, Intermediate C3, as a yellow solid (1.19 g, 39%); Rt 1.35 (Method 2); m/z 274 (M+H)+ (ES+).

reactant | (2-aminopyridin-4-yl)methanol | 10.8 mmol, 1.33 g | NC1=NC=CC(=C1)CO | C6H8N2O
reactant | sodium hydride | 13.4 mmol, 537 mg | [H-].[Na+]
reactant | 1-fluoro-2,3-dimethyl-4-nitrobenzene | 12.0 mmol, 2.00 g | FC1=C(C(=C(C=C1)[N+](=O)[O-])C)C | C8H8FNO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 4-((2,3-Dimethyl-4-nitrophenoxy)methyl)pyridin-2-amine | CC1=C(OCC2=CC(=NC=C2)N)C=CC(=C1C)[N+](=O)[O-] | C14H15N3O3
